US09233946B2
4-(1,3-Oxazol-5-yl)-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide
The product was prepared according to General Procedure 6, described in Example 65, with 4-(1,3-oxazol-5-yl)benzenesulfonyl chloride (17.2 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8.0 mg, 0.050 mmol). The title compound was obtained in 23% yield (4.2 mg). MS (ESI+) calcd mass for C16H12N6O3S 368.069159, found 368.069509.

reactant | 4-(1,3-oxazol-5-yl)benzenesulfonyl chloride | 0.055 mmol, 17.2 mg | O1C=NC=C1C1=CC=C(C=C1)S(=O)(=O)Cl | C9H6ClNO3S
reactant | 5-(3-aminophenyl)tetrazole | 0.050 mmol, 8.0 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 4-(1,3-Oxazol-5-yl)-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide | 23% yield | O1C=NC=C1C1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C16H12N6O3S
